US06939874B2
N4-(1H-Benzimidazol-2-yl)-N2-{3-methoxy-4-[1-methylpiperidin-4-yl-methoxy]-phenyl}-N4-(2,6-dimethylphenyl)-pyrimidine-2,4-diamine
A pressure tube was charged with a solution of 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole (50 mg, 0.14 mmol), from Example 155 Step F, 3-methoxy-4-(1-methylpiperidin-4-ylmethoxy)-phenylamine (36 mg, 0.14 mmol) in glacial AcOH (2 mL). The reaction, a dark brown solution, was heated to 80° C. for 18 h. The reaction was cooled to RT then basified by careful addition of 5M NaOH (15 mL). The aqueous solution was extracted with CH2Cl2. The combined organic extracts were dried (Na2SO4) and the solvent removed in vacuo. The residue was purified by column chromatography (silica; CH2Cl2:MeOH; 9:1, containing TEA [1%]) to afford a brown solid, which was further purified by column chromatography (silica; CH2Cl2:MeOH; 9:1; containing TEA [0.5%]) to afford a light brown solid. MS m/z=564 (M+H). Calc'd for C33H37N7O2=563.

reactant | 2-(N-(2-chloropyrimid-4-yl)-2,6-dimethylphenylamino)-1H-benzimidazole | 0.14 mmol, 50 mg | ClC1=NC=CC(=N1)N(C1=NC2=C(N1)C=CC=C2)C2=C(C=CC=C2C)C | C19H16ClN5
reactant | 3-methoxy-4-(1-methylpiperidin-4-ylmethoxy)-phenylamine | 0.14 mmol, 36 mg | COC=1C=C(C=CC1OCC1CCN(CC1)C)N | C14H22N2O2
reactant | NaOH | 5M, 15 mL | [OH-].[Na+]
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | N4-(1H-Benzimidazol-2-yl)-N2-{3-methoxy-4-[1-methylpiperidin-4-yl-methoxy]-phenyl}-N4-(2,6-dimethylphenyl)-pyrimidine-2,4-diamine | N1C(=NC2=C1C=CC=C2)N(C2=NC(=NC=C2)NC2=CC(=C(C=C2)OCC2CCN(CC2)C)OC)C2=C(C=CC=C2C)C | C33H37N7O2
